US08202858B2
4-{3-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyloxymethyl}-piperidine-1-carboxylic Acid Benzyl Ester
WSCD (107 mg, 0.54 mmol) and DMAP (33 mg, 0.27 mmol) were added to a solution of 3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionic acid from Example E45 (106 mg, 0.27 mmol) and 4-hydroxymethyl-piperidine-1-carboxylic acid benzyl ester (81 mg, 0.32 mmol) in di-chloromethane (5 ml) and DIEA (0.095 ml, 0.54 mmol). The mixture was stirred for 3 h at room temperature, washed with saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel through an isolute (eluant; EtOAc) to yield the title compound (44 mg, 26%).

reactant | 3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionic acid | CC1=C(C=CC(=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)CCC(=O)O | C22H22N4O3
reactant | 4-hydroxymethyl-piperidine-1-carboxylic acid benzyl ester | 0.32 mmol, 81 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CO | C14H19NO3
reactant | DIEA | 0.54 mmol, 0.095 ml | CCN(C(C)C)C(C)C | C8H19N
catalyst | DMAP | 0.27 mmol, 33 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | di-chloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-{3-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyloxymethyl}-piperidine-1-carboxylic Acid Benzyl Ester | 44 mg, 26% | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)COC(CCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C36H39N5O5
